US04497806
Trimethyltin 5-nitro-2-furoate (Compound E) was prepared by reacting trimethyltin hydroxide (9.20 g, 0.0509 mole) with 5-nitro-2-furoic acid (8.00 g, 0.0509 mole) in 75 ml benzene. The reaction mixture was refluxed for 19 hours at a temperature of 80° C. and a pressure of 1 atm. The resulting precipitate was collected on filter paper and dried to yield 15.30 g (94%) of crude trimethyltin 5-nitro-2-furoate, melting point 188.2°-195.5° C. The resulting compound was recrystallized three times from benzene to give Compound E, melting point 190°-192° C. The elemental analysis gave (in %) C:30.15, H:3.74, N:4.43, Sn:36.89, calculated for C8H11NO5Sn (in %): C:30.04, H:3.47, N:4.38, Sn:37.12.

reactant | trimethyltin hydroxide | 0.0509 mole, 9.20 g | [OH-].C[Sn+](C)C
reactant | 5-nitro-2-furoic acid | 0.0509 mole, 8.00 g | [N+](=O)([O-])C1=CC=C(O1)C(=O)O | C5H3NO5
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | trimethyltin 5-nitro-2-furoate | 15.30 g, 94% | [N+](=O)([O-])C1=CC=C(O1)C(=O)[O-].C[Sn+](C)C | InChI=1S/C5H3NO5.3CH3.Sn/c7-5(8)3-1-2-4(11-3)6(9)10;;;;/h1-2H,(H,7,8);3*1H3;/q;;;;+1/p-1
